US07173129B2
N-Butyryl-4-[3E-(2,4-dimethoxy-5-pyrrolidin-1-ylphenyl)acryloyl]benzenesulfonamide
The title compound was synthesized by reacting 4-[3E-(2,4-dimethoxy-5-pyrrolidin-1-ylphenyl)acryloyl]benzenesulfonamide (Ex-48A, 137 mg, 0.33 mmol) with butyric anhydride (0.11 mL, 0.66 mmol) in the presence of triethylamine (0.048 mL, 0.35 mmol) and 4-(dimethylamino)pyridine (4 mg, 0.03 mmol) in a mixture of THF (5 mL) and DMF (0.7 mL) in a similar manner as Ex-35, dark red solid (98 mg, 61%), mp 193–195° C. 1H NMR (300 MHz, DMSO-d6) δ 12.23 (brs, 1H), 8.26 (d, J=8.5 Hz, 2H), 8.11–8.03 (m, 3H), 7.66 (d, J=15.2 Hz, 1H), 7.02 (s, 1H), 6.71 (s, 1H), 3.90 (s, 6H), 3.15–3.25 (m, 4H), 2.20 (t, J=7.6 Hz, 2H), 1.92–1.81 (m, 4H), 1.46–1.39 (m, 2H), 0.76 (t, J=7.3 Hz, 3H).

reactant | 4-[3E-(2,4-dimethoxy-5-pyrrolidin-1-ylphenyl)acryloyl]benzenesulfonamide | 0.33 mmol, 137 mg | COC1=C(C=C(C(=C1)OC)N1CCCC1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N | C21H24N2O5S
reactant | butyric anhydride | 0.66 mmol, 0.11 mL | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | triethylamine | 0.35 mmol, 0.048 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 0.03 mmol, 4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | N-Butyryl-4-[3E-(2,4-dimethoxy-5-pyrrolidin-1-ylphenyl)acryloyl]benzenesulfonamide | C(CCC)(=O)NS(=O)(=O)C1=CC=C(C=C1)C(\C=C\C1=C(C=C(C(=C1)N1CCCC1)OC)OC)=O | C25H30N2O6S
